US08975254B2
a) Ethyl 5-(2-hydroxypropyl)isoxazole-3-carboxylate
Ethyl chlorooximidoacetate (4 g, 26.4 mmol) and 4-pentyn-2-ol (10.00 ml, 107 mmol) were dissolved in diethyl ether (30 ml). A solution of triethylamine (3.68 ml, 26.4 mmol) in diethylether (20 ml) was added dropwise to the reaction mixture. After 1 h of stirring at RT the reaction mixture was washed with brine and water, dried with MgSO4 and evaporated to dryness. The residue was purified with flash chromatography using a gradient of methanol in methylene chloride affording 2.51 g (48%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ, 1.11 (d, 3H), 1.31 (t, 3H), 2.82-2.94 (m, 2H), 3.93-4.03 (m, 1H) 4.35 (q, 2H), 4.89 (d, 1H), 6.67 (s, 1H).

reactant | Ethyl chlorooximidoacetate | 26.4 mmol, 4 g | CCOC(=O)/C(=N\O)/Cl | C4H6ClNO3
reactant | 4-pentyn-2-ol | 107 mmol, 10.00 ml | CC(CC#C)O | C5H8O
reactant | triethylamine | 26.4 mmol, 3.68 ml | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | diethylether | 20 ml | C(C)OCC | C4H10O
product | Ethyl 5-(2-hydroxypropyl)isoxazole-3-carboxylate | OC(CC1=CC(=NO1)C(=O)OCC)C | C9H13NO4
